US04613373
Production of triphenyl-(4-vinyl)phenylboron-2-methylimidazolium complex (Compound No. 10 of Table 1)
Triphenyl-(4-vinyl)phenylboron sodium (0.05 moles) was reacted with 2-methylimidazole hydrochloride (0.05 moles) in the similar manner to that of Example 4 using acetone as the reaction solvent to give 20.0 g (yield: 93.7%) of the titled compound as colorless crystal. M.p. 234° to 236° C.

reactant | Triphenyl-(4-vinyl)phenylboron sodium | 0.05 moles | [Na].C1(=CC=CC=C1)C=1C(=C(C(=C(C1)[B])C1=CC=CC=C1)C1=CC=CC=C1)C=C
reactant | 2-methylimidazole hydrochloride | 0.05 moles | Cl.CC=1NC=CN1
solvent | acetone | CC(=O)C | C3H6O
product | triphenyl-(4-vinyl)phenylboron 2-methylimidazolium | 20.0 g, yield: 93.7% | C1(=CC=CC=C1)C=1C(=C(C(=C(C1)[B])C1=CC=CC=C1)C1=CC=CC=C1)C=C.CC1=[NH+]C=CN1 | InChI=1S/C26H19B.C4H6N2/c1-2-22-23(19-12-6-3-7-13-19)18-24(27)26(21-16-10-5-11-17-21)25(22)20-14-8-4-9-15-20;1-4-5-2-3-6-4/h2-18H,1H2;2-3H,1H3,(H,5,6)/p+1
